Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
ectopic pregnancy
 
Major Surgical or Invasive Procedure:
diagnostic laparoscopy, right salpingectomy

 
History of Present Illness:
Ms. ___ is a ___ G3P1 undergoing MTX treatment for R
ectopic pregnancy. She received MTX on ___ and had day 4 and 
day
7 labs c/w with an approximately 30% drop in her HCG level so 
she
was planned for weekly HCG draws. She presented today to GYN
triage with increase pain in her mid to RLQ associated with
lightheadedness and dizziness. Of note, dizziness and
lightheadedness isn't a new symptom but has been ongoing since
diagnosis of ectopic. She has also had increasing passage of
blood clots. She denies any syncopal episodes. She called and 
was
asked to report to triage immediately for concern for rupture of
ectopic.

 
Past Medical History:
OB Hx: 1 SAB, 1 SVD at term, no complications

GYN Hx: 
Menses: ___ x 7d x 30d
s/p Mirena removed in triage on ___ after ectopic was diagnosed
Hx of LSIL Pap -> plan for f/u following resolution of ectopic
Hx of genital herpes
Hx of sexual abuse at age ___, patient intolerant of pelvic
examinations

Meds: None
Allergy: None
PMH: Anxiety, diagnosed after w/u for chest pain
PSH: None

 
Social History:
Soc Hx: Denies T/E/D. Works here in opthalmology as a ___.

 
Physical Exam:
Initial Physical Examination
Vitals: 98.4 117/64 86 20 100%/RA
No acute distress
RRR no m/r/g
CTAB
ABD Soft with moderate tenderness to palpation without rebound 
or
guarding.
On bimanual exam, there is cervical motion tenderness and b/l
adnexal tenderness to palpation, very difficult tolerating exam
(required ativan prior to exam)
EXT NT/NE

 
Pertinent Results:
___ 11:11PM BLOOD WBC-5.9 RBC-4.04* Hgb-11.9* Hct-35.6* 
MCV-88 MCH-29.4 MCHC-33.4 RDW-12.5 Plt ___
___ 01:57AM BLOOD WBC-5.5 RBC-3.80* Hgb-11.4* Hct-33.2* 
MCV-87 MCH-29.9 MCHC-34.2 RDW-12.4 Plt ___
___ 04:01AM BLOOD WBC-5.5 RBC-3.85* Hgb-11.3* Hct-33.6* 
MCV-87 MCH-29.4 MCHC-33.6 RDW-12.4 Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a laparoscopic right salpingectomy. Please see 
the operative report for full details.  
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with PO oxycodone-acetaminophen 
and ibuprofen.  
By post-operative day #0, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.  

 
Medications on Admission:
none
 
Discharge Medications:
1. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
do not drive while taking. max acetaminophen 4000 mg in 24 hours 

RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*25 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
use while taking percocet to prevent constipation. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the gynecology service for abdominal pain 
after receiving methotrexate for an ectopic pregnancy. You had 
surgery to evaluate the ectopic pregnancy and remove. You have 
recovered well after surgery and are safe to be discharged home. 
Please call our OBGYN office with any questions or concerns, 
___. Please follow the instructions below.
 
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina for 6 weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.  
* You may walk up and down stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.   

Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___